US06274536B1
5-(5-Chloro-3-fluoro-2-pyridyl)-2-methyl-[2H]-pyrazole-3-carboxylic Acid Ethyl Ester
5.0 g of 3-(3-fluoro-5-chloro-2-pyridyl)-5-bromo-1-methyl-[1H]-pyrazole (Example P18) are introduced into an autoclave together with 7.2 ml of triethylamine, 0.48 g of bis-triphenylphosphinepalladium dichloride (PdCl2(PPh3)2) and 70 ml of absolute ethanol. At 22° C. a pressure of 100 bar is applied with carbon monoxide and the reaction mixture is maintained at 100° C. for 48 hours. In the meantime a further 0.48 g of bis-triphenylphosphinepalladium dichloride is added, and the mixture is then cooled to 22° C. and the pressure is released. The reaction mixture is filtered over Hyflo and, after evaporating off the ethanol, taken up in ethyl acetate. The ethyl acetate phase is washed with dilute hydrochloric acid and then with brine, dried over sodium sulfate, filtered and finally concentrated to dryness in vacuo. 3.17 g of a brown solid are obtained, which is purified by means of flash chromatography (silica gel; eluant: n-hexane/ethyl acetate 2/1 (v/v)). 2.31 g of the desired title compound are obtained in the form of a light-yellow solid having a melting point of 117-118° C.

reactant | 3-(3-fluoro-5-chloro-2-pyridyl)-5-bromo-1-methyl-[1H]-pyrazole | 5.0 g | FC=1C(=NC=C(C1)Cl)C1=NN(C(=C1)Br)C | C9H6BrClFN3
reactant | triethylamine | 7.2 ml | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | ethanol | 70 ml | C(C)O | C2H6O
product | 5-(5-Chloro-3-fluoro-2-pyridyl)-2-methyl-[2H]-pyrazole-3-carboxylic Acid Ethyl Ester | 3.17 g | C(C)OC(=O)C=1N(N=C(C1)C1=NC=C(C=C1F)Cl)C | C12H11ClFN3O2
